2197-11-07 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2197-11-6**] 09:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-7**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 85 (81 - 112) bpm
   BP: 109/46(62) {100/43(58) - 143/70(84)} mmHg
   RR: 19 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                     90 mL
                                                                    180 mL
   PO:
                                                                     90 mL
                                                                    180 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     90 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   VS:  99.0  114  114/45  11  92%RA, 100%2L
   GENERAL: elderly AA female, cachectic, laying in bed, awake,
   denies pain and AOx1 (to name, not to date)
   SKIN: warm and well perfused, left tunnelled line with tracking
   erythema up to above subclavian where line dives deeper, back with
   healed sacral decub with very minimal scab.
   HEENT: AT/NC, EOMI, pupils sluggish 2 to 1.5mm bilaterally, anicteric
   sclera
   Neck: Dilated veins throughout neck.
   CARDIAC: RRR, S1/S2, 2/6 systolic murmur at USB
   LUNG: significant bibasilar crackles, fair air movement, no wheezes
   ABDOMEN: nondistended, +BS, nontender in all quadrants, no
   rebound/guarding, no hepatosplenomegaly, significantly dilated
   superficial veins
   M/S: R BKA, L AKA, moves upper extremities, hands tightly
   clenched
   NEURO: A+O x1 (name), rarely makes eye contact, CN [**Name2 (NI) 5704**]
   grossly intact, sensation to touch intact, moves all 4, but hands are
   held in contracted position (able to move them).
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   A/P: 72yo vasculopathic F with ESRD on HD (BL Cr [**4-11**]), bilateral BKAs,
   DM2 (HbA1c 5.2), HTN, CHF (EF 50%), hx of MRSA line infection presents
   from HD with fever.
   .
   #. Bacteremia/Fever/Infection: Pt with fever to 103 in setting of HD.
   Pt with h/o line infections, bld cx growing GPCs.  CXR with R > L
   infiltrate/edema.  Pt with relative leukocytosis and left shift.
   Unclear if it is just a line infection or she potentially has a pna.
   - f/u bld cxs, here and at HD
   - Continue vanco QHD, Gent QHD
   - sputum cxs if able
   - u/s of left upper chest -vein
   .
   #. Hypoxia: Pt with recorded hypoxia in triage, On floor has slight
   desat to low 90s from 98-100 on 2L. CXR with increased
   edema/infiltrate.  Appears more likely fluid.  Pt may have had some
   flash pulmonary edema secondary to tachycardia in setting of
   infection.  Patient did have sats that were trending down at NH which
   could have been due to pna or inflammation from infection.
   - On broad spectrum abx for bacteremia/fever which will cover any
   possible pna
   - Repeat CXR in AM to compare
   - consider Echo in am if not improved
   .
   #. ESRD: electrolytes good, completed a full course of HD today.
   - Renal consult.
   - no indication for acute HD, monitoring oxygen carefully
   - Ct nephrocaps
   .
   #. h/o Pericardial effusion:  BP stable.  No evidence of tamponade.
   .
   #. Seizure d/o s/p CVA:
   - Ct keppra
   - Ct simvastatin, asa
   - Continue coumadin prn, holding today given abx and inr of 2.8.
   .
   #. Mental status: Per discussion with HCP, pt has had subacute decline
   over the last year.  Usually oriented to self.
   .
   #  Elevated LFTs: Abd exam benign.  Maybe secondary to heart failure
   leading to hepatic congestion.
   - trend
   - consider abd u/s if fevers/leukocytosis persists.
   .
   #. DM: RISS
   .
   #. Anemia: Same as recent 32 (29-30).
   -Ct Folic acid
   - procrit at HD
   .
   #. Chronic orhtostatic hypotension: Ct Midodrine 10mg TID
   .
   #. Glaucoma: Ct Timolol gtts 1gtt Ou Daily, Lumigan 1gtt OU QHS
   .
   #. ?Chronic Pain: Holding dilaudid while concerned about sepsis.
   .
   #. Healed sacral decubitus ulcer: Chronic, noted at admission.
   .
   # FEN: replete lytes prn
   # PPx: Anticoagulated, home bowel regimen, home H2blocker
   # Access: PIV
   # Code: DNI/R
   # Communication: With patient and HCP [**Name (NI) 5705**] [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2197-11-6**] 09:30 PM
   20 Gauge - [**2197-11-6**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2197-11-07 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2197-11-6**] 09:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-7**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 85 (81 - 112) bpm
   BP: 109/46(62) {100/43(58) - 143/70(84)} mmHg
   RR: 19 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                     90 mL
                                                                    180 mL
   PO:
                                                                     90 mL
                                                                    180 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     90 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2197-11-6**] 09:30 PM
   20 Gauge - [**2197-11-6**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2197-11-07 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2197-11-6**] 09:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-7**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 85 (81 - 112) bpm
   BP: 109/46(62) {100/43(58) - 143/70(84)} mmHg
   RR: 19 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                     90 mL
                                                                    180 mL
   PO:
                                                                     90 mL
                                                                    180 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     90 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   A/P: 72yo vasculopathic F with ESRD on HD (BL Cr [**4-11**]), bilateral BKAs,
   DM2 (HbA1c 5.2), HTN, CHF (EF 50%), hx of MRSA line infection presents
   from HD with fever.
   .
   #. Bacteremia/Fever/Infection: Pt with fever to 103 in setting of HD.
   Pt with h/o line infections, bld cx growing GPCs.  CXR with R > L
   infiltrate/edema.  Pt with relative leukocytosis and left shift.
   Unclear if it is just a line infection or she potentially has a pna.
   - f/u bld cxs, here and at HD
   - Continue vanco QHD, Gent QHD
   - sputum cxs if able
   - u/s of left upper chest -vein
   .
   #. Hypoxia: Pt with recorded hypoxia in triage, On floor has slight
   desat to low 90s from 98-100 on 2L. CXR with increased
   edema/infiltrate.  Appears more likely fluid.  Pt may have had some
   flash pulmonary edema secondary to tachycardia in setting of
   infection.  Patient did have sats that were trending down at NH which
   could have been due to pna or inflammation from infection.
   - On broad spectrum abx for bacteremia/fever which will cover any
   possible pna
   - Repeat CXR in AM to compare
   - consider Echo in am if not improved
   .
   #. ESRD: electrolytes good, completed a full course of HD today.
   - Renal consult.
   - no indication for acute HD, monitoring oxygen carefully
   - Ct nephrocaps
   .
   #. h/o Pericardial effusion:  BP stable.  No evidence of tamponade.
   .
   #. Seizure d/o s/p CVA:
   - Ct keppra
   - Ct simvastatin, asa
   - Continue coumadin prn, holding today given abx and inr of 2.8.
   .
   #. Mental status: Per discussion with HCP, pt has had subacute decline
   over the last year.  Usually oriented to self.
   .
   #  Elevated LFTs: Abd exam benign.  Maybe secondary to heart failure
   leading to hepatic congestion.
   - trend
   - consider abd u/s if fevers/leukocytosis persists.
   .
   #. DM: RISS
   .
   #. Anemia: Same as recent 32 (29-30).
   -Ct Folic acid
   - procrit at HD
   .
   #. Chronic orhtostatic hypotension: Ct Midodrine 10mg TID
   .
   #. Glaucoma: Ct Timolol gtts 1gtt Ou Daily, Lumigan 1gtt OU QHS
   .
   #. ?Chronic Pain: Holding dilaudid while concerned about sepsis.
   .
   #. Healed sacral decubitus ulcer: Chronic, noted at admission.
   .
   # FEN: replete lytes prn
   # PPx: Anticoagulated, home bowel regimen, home H2blocker
   # Access: PIV
   # Code: DNI/R
   # Communication: With patient and HCP [**Name (NI) 5705**] [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2197-11-6**] 09:30 PM
   20 Gauge - [**2197-11-6**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2197-11-07 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Spiked temp to 102 this am.  Blood cx positive for GPC.
   Pt denies any SOB, cough. No complaints but history not reliable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-7**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 85 (81 - 112) bpm
   BP: 109/46(62) {100/43(58) - 143/70(84)} mmHg
   RR: 19 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                     90 mL
                                                                    180 mL
   PO:
                                                                     90 mL
                                                                    180 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     90 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   GENERAL: elderly AA female, cachectic, laying in bed, awake,
   denies pain and AOx2 (to name and place, not to date)
   SKIN: warm and well perfused, left tunnelled line with tracking
   erythema up to above subclavian where line dives deeper, 4 cm palpable
   mass over tunneled area of line and gross pus appearing to be leaking
   around line. No bruit. Back with healed sacral decub with very minimal
   scab.
   HEENT: AT/NC, EOMI, pupils sluggish 2 to 1.5mm bilaterally, anicteric
   sclera
   Neck: Dilated veins throughout neck.
   CARDIAC: RRR, S1/S2, 2/6 systolic murmur at USB
   LUNG: significant bibasilar crackles, fair air movement, no wheezes
   ABDOMEN: nondistended, +BS, nontender in all quadrants, no
   rebound/guarding, no hepatosplenomegaly, significantly dilated
   superficial veins
   M/S: R BKA, L AKA, moves upper extremities, hands tightly
   Clenched, contracted
   NEURO: A+O x2 (name and place), rarely makes eye contact, CN [**Name2 (NI) 5704**]
   grossly intact, sensation to touch intact, moves all 4, but hands are
   held in contracted position (able to move them).
   Labs / Radiology
        [image002.jpg] CXR: Overall appearance c/w chronic CHF with ?
   superimposed infection, more likely CHF
   Blood cx: [**5-12**] GPC [**11-6**]; [**11-6**] blood cx NGTD x 2
   Assessment and Plan
   A/P: 72yo vasculopathic F with ESRD on HD bilateral BKAs, DM2 (HbA1c
   5.2), HTN, CHF (EF 50%), hx of MRSA line infection presents from HD
   with fever.
   .
   #. GPC Bacteremia/Fever/Infection: Pt with fever to 103 in setting of
   HD and persistent fever today after receiving Vanc and Gent at HD
   [**11-6**].  Pt with h/o line infections, bld cx growing GPCs.  CXR with R >
   L infiltrate/edema.  Pt with relative leukocytosis and left shift.
   Unclear if it is just a line infection or if she potentially has a pna
   as well. Given gross appearance of line, and h/o line infections, pt
   most likely has line infection with ? superimposed abscess.
   - f/u bld cxs, speciation, sensitivities, here and at HD
   - Continue vanco QHD, Gent QHD. Will check levels to determine dose
   - u/s of left upper chest
   - Will follow up with IR, Surgery, Renal regarding need to pull line,
   need for replacement HD line in setting of high grade bacteremia.
   Barriers to line placement include elevated INR. Will talk to IR re:
   goal INR to have procedure. [**Month (only) 60**] also need I and D of surrounding area
   which appears to be an abscess. [**Month (only) 60**] need FFP but need to
   .
   #. Hypoxia: Pt with recorded hypoxia in triage, On floor has slight
   desat to low 90s from 98-100 on 2L. CXR with increased
   edema/infiltrate.  Appears more likely fluid.  Pt may have had some
   flash pulmonary edema secondary to tachycardia in setting of
   infection.  Patient did have sats that were trending down at NH which
   could have been due to pna or inflammation from infection. Currently
   satting mid 90s on 1 liter nasal cannula.  CXR most c/w fluid overload
   which appears to be chronic for her
   - On broad spectrum abx for bacteremia/fever which will cover any
   possible pna
   - Repeat CXR in AM to compare
   - Careful with fluids and FFP needs if need to get INR down for
   procedure
   .
   #. ESRD: electrolytes good, completed a full course of HD yesterday.
   - Renal consult, will be following. F/U recs
   - no indication for acute HD, monitoring oxygen carefully
   - Ct nephrocaps
   .
   #. h/o Pericardial effusion:  BP stable.  No evidence of tamponade.
   .
   #. Seizure d/o s/p CVA:
   - Ct keppra
   - Ct simvastatin, asa
   - Continue coumadin prn, holding given abx and supratherapeutic inr  .
   .
   #. Mental status: Per discussion with HCP, pt has had subacute decline
   over the last year.  Usually oriented to self.
   .
   #  Elevated LFTs: Abd exam benign.  Maybe secondary to heart failure
   leading to hepatic congestion.
   - trend
   - consider abd u/s if fevers/leukocytosis persists.
   .
   #. DM: RISS
   .
   #. Anemia: has baseline anemia on Procrit at HD likely [**3-11**] CKD. Recent
   Baseline (29-30).
   -Ct Folic acid
   - procrit at HD
   .
   #. Chronic orhtostatic hypotension: Ct Midodrine 10mg TID prn
   .
   #. Glaucoma: Ct Timolol gtts 1gtt Ou Daily, Lumigan 1gtt OU QHS
   .
   #. ?Chronic Pain: Unclear etiology of chronic pain. ? secondary to
   B/AKA, cardiac surgery, new infection. Held dilaudid overnight given
   concern for respiratory depression with decreased RR, but will restart
   at half home dose. Will give 2-4 mg PO x 2 and reassess.
   .
   #. Healed sacral decubitus ulcer: Chronic, noted at admission.
   .
   # FEN: NPO for now, pending procedures. replete lytes prn
   # PPx: Supratherapeutic INR, home bowel regimen, home H2blocker
   # Access: PIV, HD line. Will attempt to obtain another PIV
   # Code: DNI/R
   # Communication: With patient and HCP [**Name (NI) 5705**] [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2197-11-6**] 09:30 PM
   20 Gauge - [**2197-11-6**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2197-11-07 10:12:00 Physician Attending Progress Note
Chief Complaint: fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   chronic HD with recurrent line infection presents with fevers from HD
   and hypoxemia
   [**5-12**] blood cx + GPC
   24 Hour Events:
 DIALYSIS CATHETER - START [**2197-11-6**] 09:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   ASA, Simvastatin, Midodrine, Folate, Zantac, Cinecalcet, SSRI, Keppra,
   remeron,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-7**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 39
C (102.2
   HR: 104 (81 - 112) bpm
   BP: 120/54(70) {100/43(58) - 158/70(92)} mmHg
   RR: 26 (10 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                     90 mL
                                                                    300 mL
   PO:
                                                                     90 mL
                                                                    300 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     90 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///34/
   Physical Examination
   Gen: frail elderly woman in mod pain
   CV: RR 2/6 sem
   Chest: fair air movement, no rales
 palpable fluctuant mass over left
   IJ tunneled line
   Abd: soft NT + BS
   Ext: left AKA right BKA
   Neuro: conversant, complains of pain
   Labs / Radiology
   10.1 g/dL
   137 K/uL
   128 mg/dL
   3.0 mg/dL
   34 mEq/L
   4.1 mEq/L
   30 mg/dL
   99 mEq/L
   141 mEq/L
   32.8 %
        [image002.jpg]
                             [**2197-11-7**]  08:34 AM
   Hct
   32.8
   Plt
   137
   Cr
   3.0
   Glucose
   128
   Other labs: PT / PTT / INR:30.5/44.3/3.1, ALT / AST:56/53, Alk Phos / T
   Bili:269/0.7, Albumin:3.1 g/dL, LDH:197 IU/L, Ca++:9.2 mg/dL, Mg++:2.1
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   72 yr old woman with high grade bacteremia and infected HD catheter
   1. Line Abscess: Needs a combined plan with Renal, IR, surgery re plans
   to pull and debride abscess.
   Will need INR reversed, can use small amounts of FFP plus IV Vit K
   2. ESRD: Renal aware for HD in AM or this afternoon if volume overload
   from FFP
   Remaining issues as per Housestaff notes
 discussed on rounds
   ICU Care
   Nutrition: Renal Diabetic Diet
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2197-11-6**] 09:30 PM
   20 Gauge - [**2197-11-6**] 09:30 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   Communication:  HCP friend
   [**Name (NI) 66**] status: Full code
   Disposition: ICU
   Total time spent 40:
   Patient is critically ill

2197-11-07 10:12:00 Physician Attending Progress Note
Chief Complaint: fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   chronic HD with recurrent line infection presents with fevers from HD
   and hypoxemia
   [**5-12**] blood cx + GPC
   24 Hour Events:
 DIALYSIS CATHETER - START [**2197-11-6**] 09:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   ASA, Simvastatin, Midodrine, Folate, Zantac, Cinecalcet, SSRI, Keppra,
   remeron,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-7**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 39
C (102.2
   HR: 104 (81 - 112) bpm
   BP: 120/54(70) {100/43(58) - 158/70(92)} mmHg
   RR: 26 (10 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                     90 mL
                                                                    300 mL
   PO:
                                                                     90 mL
                                                                    300 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     90 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///34/
   Physical Examination
   Gen: frail elderly woman in mod pain
   CV: RR 2/6 sem
   Chest: fair air movement, no rales
   Abd: soft NT + BS
   Ext: left AKA right BKA
   Neuro: conversant
   Labs / Radiology
   10.1 g/dL
   137 K/uL
   128 mg/dL
   3.0 mg/dL
   34 mEq/L
   4.1 mEq/L
   30 mg/dL
   99 mEq/L
   141 mEq/L
   32.8 %
        [image002.jpg]
                             [**2197-11-7**]  08:34 AM
   Hct
   32.8
   Plt
   137
   Cr
   3.0
   Glucose
   128
   Other labs: PT / PTT / INR:30.5/44.3/3.1, ALT / AST:56/53, Alk Phos / T
   Bili:269/0.7, Albumin:3.1 g/dL, LDH:197 IU/L, Ca++:9.2 mg/dL, Mg++:2.1
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   72 yr old woman with high grade bacteremia and likely infected HD
   cathter
   1. Line Abscess: Needs a combined plan with Renal, IR, surgery re plans
   to pull and debride abscess.
   Will need INR reversed, can use small amounts of FFP plus IV Vit K
   2.
   ICU Care
   Nutrition: Renal Diabetic Diet
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2197-11-6**] 09:30 PM
   20 Gauge - [**2197-11-6**] 09:30 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   Communication:  HCP friend
   [**Name (NI) 66**] status: Full code
   Disposition: ICU
   Total time spent 40:
   Patient is critically ill

2197-11-07 10:12:00 Physician Attending Progress Note
Chief Complaint: fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   chronic HD with recurrent line infection presents with fevers from HD
   and hypoxemia
   [**5-12**] blood cx + GPC
   24 Hour Events:
 DIALYSIS CATHETER - START [**2197-11-6**] 09:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   ASA, Simvastatin, Midodrine, Folate, Zantac, Cinecalcet, SSRI, Keppra,
   remeron,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-7**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 39
C (102.2
   HR: 104 (81 - 112) bpm
   BP: 120/54(70) {100/43(58) - 158/70(92)} mmHg
   RR: 26 (10 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                     90 mL
                                                                    300 mL
   PO:
                                                                     90 mL
                                                                    300 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     90 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///34/
   Physical Examination
   Gen: frail elderly woman in mod pain
   CV: RR 2/6 sem
   Chest: fair air movement, no rales
 palpable fluctuant mass over left
   IJ tunneled line
   Abd: soft NT + BS
   Ext: left AKA right BKA
   Neuro: conversant, complains of pain
   Labs / Radiology
   10.1 g/dL
   137 K/uL
   128 mg/dL
   3.0 mg/dL
   34 mEq/L
   4.1 mEq/L
   30 mg/dL
   99 mEq/L
   141 mEq/L
   32.8 %
        [image002.jpg]
                             [**2197-11-7**]  08:34 AM
   Hct
   32.8
   Plt
   137
   Cr
   3.0
   Glucose
   128
   Other labs: PT / PTT / INR:30.5/44.3/3.1, ALT / AST:56/53, Alk Phos / T
   Bili:269/0.7, Albumin:3.1 g/dL, LDH:197 IU/L, Ca++:9.2 mg/dL, Mg++:2.1
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   72 yr old woman with high grade bacteremia and infected HD catheter
   1. Line Abscess: Needs a combined plan with Renal, IR, surgery re plans
   to pull and debride abscess.
   Will need INR reversed, can use small amounts of FFP plus IV Vit K
   2. ESRD: Renal aware for HD in AM or this afternoon if volume overload
   from FFP
   ICU Care
   Nutrition: Renal Diabetic Diet
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2197-11-6**] 09:30 PM
   20 Gauge - [**2197-11-6**] 09:30 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   Communication:  HCP friend
   [**Name (NI) 66**] status: Full code
   Disposition: ICU
   Total time spent 40:
   Patient is critically ill

2197-11-07 10:12:00 Physician Attending Progress Note
Chief Complaint: fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   chronic HD with recurrent line infection presents with fevers from HD
   and hypoxemia
   [**5-12**] blood cx + GPC
   24 Hour Events:
 DIALYSIS CATHETER - START [**2197-11-6**] 09:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   ASA, Simvastatin, Midodrine, Folate, Zantac, Cinecalcet, SSRI, Keppra,
   remeron,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-7**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 39
C (102.2
   HR: 104 (81 - 112) bpm
   BP: 120/54(70) {100/43(58) - 158/70(92)} mmHg
   RR: 26 (10 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                     90 mL
                                                                    300 mL
   PO:
                                                                     90 mL
                                                                    300 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     90 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///34/
   Physical Examination
   Gen: frail elderly woman in mod pain
   CV: RR 2/6 sem
   Chest: fair air movement, no rales
   Abd: soft NT + BS
   Ext: left AKA right BKA
   Neuro: conversant
   Labs / Radiology
   10.1 g/dL
   137 K/uL
   128 mg/dL
   3.0 mg/dL
   34 mEq/L
   4.1 mEq/L
   30 mg/dL
   99 mEq/L
   141 mEq/L
   32.8 %
        [image002.jpg]
                             [**2197-11-7**]  08:34 AM
   Hct
   32.8
   Plt
   137
   Cr
   3.0
   Glucose
   128
   Other labs: PT / PTT / INR:30.5/44.3/3.1, ALT / AST:56/53, Alk Phos / T
   Bili:269/0.7, Albumin:3.1 g/dL, LDH:197 IU/L, Ca++:9.2 mg/dL, Mg++:2.1
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2197-11-6**] 09:30 PM
   20 Gauge - [**2197-11-6**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   Patient is critically ill

2197-11-09 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Surgery saw in AM, but did not leave note or recs. Over phone, reported
   that she thought the fluctuant areas above the wound were communicating
   with the wick.
   ID recs: keep VANCO, d/c GENT, get TTE consider TEE, and start on
   Fluconazole.
   Fluconazole started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2197-11-8**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-9**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.1
   HR: 76 (69 - 125) bpm
   BP: 96/35(51) {87/30(46) - 149/57(81)} mmHg
   RR: 18 (5 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.3 kg (admission): 44 kg
                  Total In:
                                                                  1,040 mL
                                                                    100 mL
   PO:
                                                                  1,040 mL
                                                                    100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,040 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   139 K/uL
   9.8 g/dL
   118 mg/dL
   4.4 mg/dL
   33 mEq/L
   4.2 mEq/L
   57 mg/dL
   98 mEq/L
   139 mEq/L
   29.9 %
   11.2 K/uL
        [image002.jpg]
                             [**2197-11-7**]  08:34 AM
                             [**2197-11-8**]  03:37 AM
                             [**2197-11-8**]  05:23 PM
                             [**2197-11-9**]  02:49 AM
   WBC
   9.3
   9.8
   11.2
   Hct
   32.8
   28.9
   29.9
   Plt
   137
   130
   139
   Cr
   3.0
   3.8
   4.2
   4.4
   Glucose
   128
   154
   247
   118
   Other labs: PT / PTT / INR:38.1/53.9/4.1, ALT / AST:44/55, Alk Phos / T
   Bili:235/0.9, Differential-Neuts:89.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:2.0 %, Eos:1.0 %, Albumin:3.0 g/dL, LDH:280 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-11-6**] 09:30 PM
   Multi Lumen - [**2197-11-7**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2197-11-09 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Surgery saw in AM, but did not leave note or recs. Over phone, reported
   that she thought the fluctuant areas above the wound were communicating
   with the wick.
   ID recs: keep VANCO, d/c GENT, get TTE consider TEE, and start on
   Fluconazole.
   Fluconazole started
   Temp: Tmax 100.8 this am, diaphoresis ON.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2197-11-8**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-9**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.1
   HR: 76 (69 - 125) bpm
   BP: 96/35(51) {87/30(46) - 149/57(81)} mmHg
   RR: 18 (5 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.3 kg (admission): 44 kg
                  Total In:
                                                                  1,040 mL
                                                                    100 mL
   PO:
                                                                  1,040 mL
                                                                    100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,040 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   GENERAL: elderly AA female, cachectic, laying in bed, sleeping, NAD
   SKIN: warm, non-diaphoretic. dressing over Left drained subclavian HD
   access site was clean, dry and intact. New right subclavian line intact
   with no erythema, induration or signs of infxn with mild TTpalpation
   HEENT: EOMI, anicteric sclera
   Neck:  No bruit auscultated
   CARDIAC: RRR, S1/S2, 2/6 systolic murmur at USB
   LUNG: bibasilar crackles, adequate air movement, no wheezes
   ABDOMEN: NTND, +BS, no hepatosplenomegaly
   M/S: R BKA, L AKA, moves upper extremities
   NEURO: rarely makes eye contact, CN [**Name2 (NI) 5704**] grossly intact, sensation to
   touch intact, moves all 4 ext
   Labs / Radiology
   139 K/uL
   9.8 g/dL
   118 mg/dL
   4.4 mg/dL
   33 mEq/L
   4.2 mEq/L
   57 mg/dL
   98 mEq/L
   139 mEq/L
   29.9 %
   11.2 K/uL
        [image002.jpg]
                             [**2197-11-7**]  08:34 AM
                             [**2197-11-8**]  03:37 AM
                             [**2197-11-8**]  05:23 PM
                             [**2197-11-9**]  02:49 AM
   WBC
   9.3
   9.8
   11.2
   Hct
   32.8
   28.9
   29.9
   Plt
   137
   130
   139
   Cr
   3.0
   3.8
   4.2
   4.4
   Glucose
   128
   154
   247
   118
   Other labs: PT / PTT / INR:38.1/53.9/4.1, ALT / AST:44/55, Alk Phos / T
   Bili:235/0.9, Differential-Neuts:89.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:2.0 %, Eos:1.0 %, Albumin:3.0 g/dL, LDH:280 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   A/P: 72yo vasculopathic F with ESRD on HD R BKAs and L AKA, DM2 (HbA1c
   5.2), HTN, CHF (EF 50%), hx of MRSA line infection presents from HD
   with fever.
   .
   #. GPC Bacteremia/Fever/Drained Abscess: Pt admitted fever to 103 in
   setting of HD, h/o line infections, abscess over Left SCL line, bld cx
   growing GPCs-coag positive, relative leukocytosis and left shift c/w
   left SCL HD line infection (suggests MRSA infection); removed Left SCl
   HD line yesterday per IR and successful I&D of site per surgery. I&D
   site continues to be fluctuant/indurated.  Pt had Tmax of 39C ON with
   slight tachycardia 100-120
   -Continue vanco QHD , Gent QHD. Will f/u gent level. Continue empiric
   treatment.
   -Will discuss with surgery about re-evaluation of drained abscess and
   potential for further surgical treatment.
   -Continue montoring for s/s infection post-I&D of abscess
   .
   #. Hypoxia: Vital signs (O2 sats) ON stable while on NC 2L. Considering
   hypoxia in triage, desat yesterday, and [**11-7**] CXR with increased
   edema/infiltrate most likely c/w flash pulmonary edema secondary to
   tachycardia in setting of infection yet considering PNA. Failed attempt
   to wean this am.
   -Continue O2 2L NC with attempt to wean this afternoon.
   - On broad spectrum abx for bacteremia/fever which will cover any
   possible pna
   -CXR in am
   #. ESRD: electrolytes good compared to BL (eg: BL creat: [**4-11**]) completed
   a full course of HD yesterday.
   - Renal consult, will be following. F/U recs with renal concerning HD.
   - Ct nephrocaps
   .
   #. h/o Pericardial effusion:  BP stable.  No evidence of tamponade.
   .
   #. Seizure d/o s/p CVA:
   - Ct keppra, simvastatin, asa
   - Continue coumadin prn, holding given abx and supratherapeutic inr  .
   .
   #. Mental status: Per discussion with HCP, pt has had subacute decline
   over the last year.  Usually oriented to self.
   .
   #  Elevated LFTs: Trending down; Abd exam continues to be benign.Maybe
   secondary to heart failure leading to hepatic congestion.
   - will continue to monitor
   - consider abd u/s if fevers/leukocytosis persists.
   .
   #. DM: RISS
   .
   #. Anemia: has baseline anemia on Procrit at HD likely [**3-11**] CKD. Recent
   Baseline (29-30).
   -Ct Folic acid
   - procrit at HD
   .
   #. Chronic orhtostatic hypotension: Ct Midodrine 10mg TID prn
   .
   #. Glaucoma: Ct Timolol gtts 1gtt Ou Daily, Lumigan 1gtt OU QHS
   ..
   #. Healed sacral decubitus ulcer: Chronic, noted at admission.
   .
   # FEN: Will advance to Regular. replete lytes prn
   # PPx: Supratherapeutic INR, home bowel regimen, zantac
   # Access: PIV, HD line-right femoral line
   # Code: DNI/DNR
   # Communication: With patient and daughter=HCP
   Dispo: Monitor on CCU, social work c/s
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-11-6**] 09:30 PM
   Multi Lumen - [**2197-11-7**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2197-11-09 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Surgery reported that fluctuant areas above the wound were
   communicating with the wick and no further intervention was needed.
   ID recs: keep VANCO, d/c GENT, get TTE consider TEE, and start on
   Fluconazole considering tremulous state and [**2-12**] culture bottles of
   budding yeast. Fluconazole started.
   Renal: establish temp left fem line for HD, use FFP to correct INR as
   needed, f/u PTH level, ct sensipar, follow vanco levels.
   Temp: Tmax 100.8 this am, diaphoresis ON. C/o pain but was unable to
   localize pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2197-11-8**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denied CP or SOB.
   Flowsheet Data as of  [**2197-11-9**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.1
   HR: 76 (69 - 125) bpm
   BP: 96/35(51) {87/30(46) - 149/57(81)} mmHg
   RR: 18 (5 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.3 kg (admission): 44 kg
                  Total In:
                                                                  1,040 mL
                                                                    100 mL
   PO:
                                                                  1,040 mL
                                                                    100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,040 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   GENERAL: elderly AA female, cachectic, laying in bed, sleeping, NAD
   SKIN: warm, non-diaphoretic. dressing over Left drained subclavian HD
   access site was clean, dry and intact. New right subclavian line intact
   with no erythema, induration or signs of infxn
   HEENT: EOMI, anicteric sclera, pupils sluggish.
   Neck:  neck veins distended
   CARDIAC: RRR, S1/S2, 2/6 systolic murmur at USB
   LUNG: bibasilar crackles, adequate air movement, no wheezes
   ABDOMEN: NTND, +BS, no hepatosplenomegaly
   M/S: R BKA, L AKA, moves upper extremities
   NEURO: more alert compared to yest, CN II-XII grossly intact
   Labs / Radiology
   139 K/uL
   9.8 g/dL
   118 mg/dL
   4.4 mg/dL
   33 mEq/L
   4.2 mEq/L
   57 mg/dL
   98 mEq/L
   139 mEq/L
   29.9 %
   11.2 K/uL
        [image002.jpg]
                             [**2197-11-7**]  08:34 AM
                             [**2197-11-8**]  03:37 AM
                             [**2197-11-8**]  05:23 PM
                             [**2197-11-9**]  02:49 AM
   WBC
   9.3
   9.8
   11.2
   Hct
   32.8
   28.9
   29.9
   Plt
   137
   130
   139
   Cr
   3.0
   3.8
   4.2
   4.4
   Glucose
   128
   154
   247
   118
   Other labs: PT / PTT / INR:38.1/53.9/4.1, ALT / AST:44/55, Alk Phos / T
   Bili:235/0.9, Differential-Neuts:89.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:2.0 %, Eos:1.0 %, Albumin:3.0 g/dL, LDH:280 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   A/P: 72yo vasculopathic F with ESRD on HD R BKAs and L AKA, DM2 (HbA1c
   5.2), HTN, CHF (EF 50%), hx of MRSA line infection presents from HD
   with fever.
   .
   #. Fever: bld cx growing GPCs-coag positive c/w staph bacteremia,
   etiology was infected SCl line, on vanco qHD. Considering continuing
   low grade temp, tachycardia, and 1/6 bottles of yeast, other etiology
   of fever includes a possible fungemia; started on fluconazole.  Also,
   considering endocarditis considering persistent fever and new murmur.
   Appreciate ID c/s
   -Continue vanco QHD. Will f/u gent level.
   -Will follow BCs.
   -Per surgery, will continue post-I&D management of abscess with
   iodoform wick, montor for s/s infection
   -Will obtain TTE to assess endocarditis.
   .
   #. Hypoxia: O2 sats ON stable while on NC 2L. most likely c/w flash
   pulmonary edema secondary to tachycardia in setting of infection.
   Possible etiology includes PNA considering
   -Continue O2 2L NC with attempt to wean with
   -On broad spectrum abx for bacteremia/fever which will cover any
   possible pna
   -CXR in am
   #. ESRD: electrolytes good compared to BL (eg: BL creat: [**4-11**]) completed
   a full course of HD yesterday.
   - Renal consult, will be following. F/U recs with renal concerning HD.
   - Ct nephrocaps
   .
   #. h/o Pericardial effusion:  BP stable.  No evidence of tamponade.
   .
   #. Seizure d/o s/p CVA:
   - Ct keppra, simvastatin, asa
   - Continue coumadin prn, holding given abx and supratherapeutic inr  .
   .
   #. Mental status: Per discussion with HCP, pt has had subacute decline
   over the last year.  Usually oriented to self.
   .
   #  Elevated LFTs: Trending down; Abd exam continues to be benign.Maybe
   secondary to heart failure leading to hepatic congestion.
   - will continue to monitor
   - consider abd u/s if fevers/leukocytosis persists.
   .
   #. DM: RISS
   .
   #. Anemia: has baseline anemia on Procrit at HD likely [**3-11**] CKD. Recent
   Baseline (29-30).
   -Ct Folic acid
   - procrit at HD
   .
   #. Chronic orhtostatic hypotension: Ct Midodrine 10mg TID prn
   .
   #. Glaucoma: Ct Timolol gtts 1gtt Ou Daily, Lumigan 1gtt OU QHS
   ..
   #. Healed sacral decubitus ulcer: Chronic, noted at admission.
   .
   # FEN: Will advance to Regular. replete lytes prn
   # PPx: Supratherapeutic INR, home bowel regimen, zantac
   # Access: PIV, HD line-right femoral line
   # Code: DNI/DNR
   # Communication: With patient and daughter=HCP
   Dispo: Monitor on CCU, social work c/s

2197-11-09 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Surgery reported that fluctuant areas above the wound were
   communicating with the wick and no further intervention was needed.
   ID recs: keep VANCO, d/c GENT, get TTE consider TEE, and start on
   Fluconazole considering tremulous state and [**2-12**] culture bottles of
   budding yeast. Fluconazole started.
   Renal: establish temp left fem line for HD, use FFP to correct INR as
   needed, f/u PTH level, ct sensipar, follow vanco levels.
   Temp: Tmax 100.8 this am, diaphoresis ON. C/o pain but was unable to
   localize pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2197-11-8**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denied CP or SOB.
   Flowsheet Data as of  [**2197-11-9**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.1
   HR: 76 (69 - 125) bpm
   BP: 96/35(51) {87/30(46) - 149/57(81)} mmHg
   RR: 18 (5 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.3 kg (admission): 44 kg
                  Total In:
                                                                  1,040 mL
                                                                    100 mL
   PO:
                                                                  1,040 mL
                                                                    100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,040 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   GENERAL: elderly AA female, cachectic, laying in bed, sleeping, NAD
   SKIN: warm, non-diaphoretic. dressing over Left drained subclavian HD
   access site was clean, dry and intact. New right subclavian line intact
   with no erythema, induration or signs of infxn
   HEENT: EOMI, anicteric sclera, pupils sluggish.
   Neck:  neck veins distended
   CARDIAC: RRR, S1/S2, 2/6 systolic murmur at USB
   LUNG: bibasilar crackles, adequate air movement, no wheezes
   ABDOMEN: NTND, +BS, no hepatosplenomegaly
   M/S: R BKA, L AKA, moves upper extremities
   NEURO: more alert compared to yest, CN II-XII grossly intact
   Labs / Radiology
   139 K/uL
   9.8 g/dL
   118 mg/dL
   4.4 mg/dL
   33 mEq/L
   4.2 mEq/L
   57 mg/dL
   98 mEq/L
   139 mEq/L
   29.9 %
   11.2 K/uL
                             [**2197-11-7**]  08:34 AM
                             [**2197-11-8**]  03:37 AM
                             [**2197-11-8**]  05:23 PM
                             [**2197-11-9**]  02:49 AM
   WBC
   9.3
   9.8
   11.2
   Hct
   32.8
   28.9
   29.9
   Plt
   137
   130
   139
   Cr
   3.0
   3.8
   4.2
   4.4
   Glucose
   128
   154
   247
   118
   Other labs: PT / PTT / INR:38.1/53.9/4.1, ALT / AST:44/55, Alk Phos / T
   Bili:235/0.9, Differential-Neuts:89.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:2.0 %, Eos:1.0 %, Albumin:3.0 g/dL, LDH:280 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   A/P: 72yo vasculopathic F with ESRD on HD R BKAs and L AKA, DM2 (HbA1c
   5.2), HTN, CHF (EF 50%), hx of MRSA line infection presents from HD
   with fever.
   .
   #. Fever: bld cx growing GPCs-coag positive c/w staph bacteremia,
   etiology was infected SCl line, on vanco qHD. Considering continuing
   low grade temp, tachycardia, and 1/6 bottles of yeast, other etiology
   of fever includes a possible fungemia; started on fluconazole.  Also,
   considering endocarditis considering persistent fever and new murmur.
   Appreciate ID c/s
   -Continue vanco QHD. Will f/u gent level.
   -Will follow BCs.
   -Per surgery, will continue post-I&D management of abscess with
   iodoform wick, montor for s/s infection
   -Will obtain TTE to assess endocarditis.
   .
   #. Hypoxia: O2 sats ON stable while on NC 2L. most likely c/w flash
   pulmonary edema secondary to tachycardia in setting of infection.
   Possible etiology includes PNA considering
   -Continue O2 2L NC with attempt to wean with
   -On broad spectrum abx for bacteremia/fever which will cover any
   possible pna
   -CXR in am
   #. ESRD: electrolytes good compared to BL (eg: BL creat: [**4-11**]) completed
   a full course of HD yesterday.
   - Renal consult, will be following. F/U recs with renal concerning HD.
   - Follow PTH, lytes
   - Ct nephrocaps
   - with IR, will perform temp left  fem line for HD; provide 2units FFP
   to correct INR for procedure.
   .
   #. Seizure d/o s/p CVA:
   - Ct keppra, simvastatin, asa
   - Continue coumadin prn, holding given abx and supratherapeutic inr  .
   .
   #. Mental status: Per discussion with HCP, pt has had subacute decline
   over the last year, pt is more alert today compared to yesterday.
   Continue to treat underlying infection which could be exacerbating MS
   decline.
   .
   #  Elevated LFTs: LFTs minimally elevated; Maybe secondary to fluid
   overload/heart failure leading to hepatic congestion.
   - will continue to monitor
   .
   #. DM: RISS
   .
   #. Anemia: has baseline anemia on Procrit at HD likely [**3-11**] CKD. Recent
   Baseline (29-30).
   -Ct Folic acid
   -Give Procrit at HD
   .
   #. Chronic orhtostatic hypotension: Ct Midodrine 10mg TID prn
   .
   #. Glaucoma: Ct Timolol gtts 1gtt Ou Daily, Lumigan 1gtt OU QHS
   ..
   #. Healed sacral decubitus ulcer: Chronic, noted at admission.
   .
   # FEN: Regular PO. replete lytes prn
   # PPx: Supratherapeutic INR, home bowel regimen, zantac
   # Access: PIV, HD line-right femoral line. Will obtain left fem line as
   written above.
   # Code: DNI/DNR
   # Communication: With patient and daughter=HCP
   Dispo: Monitor on CCU; called out and awaiting bed, f/u with social
   work c/s

2197-11-09 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Surgery saw in AM, but did not leave note or recs. Over phone, reported
   that she thought the fluctuant areas above the wound were communicating
   with the wick.
   ID recs: keep VANCO, d/c GENT, get TTE consider TEE, and start on
   Fluconazole.
   Fluconazole started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2197-11-8**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-11-9**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.1
   HR: 76 (69 - 125) bpm
   BP: 96/35(51) {87/30(46) - 149/57(81)} mmHg
   RR: 18 (5 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.3 kg (admission): 44 kg
                  Total In:
                                                                  1,040 mL
                                                                    100 mL
   PO:
                                                                  1,040 mL
                                                                    100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,040 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   GENERAL: elderly AA female, cachectic, laying in bed, sleeping, NAD
   SKIN: warm, non-diaphoretic. dressing over Left drained subclavian HD
   access site was clean, dry and intact. New right subclavian line intact
   with no erythema, induration or signs of infxn with mild TTpalpation
   HEENT: EOMI, anicteric sclera
   Neck:  No bruit auscultated
   CARDIAC: RRR, S1/S2, 2/6 systolic murmur at USB
   LUNG: bibasilar crackles, adequate air movement, no wheezes
   ABDOMEN: NTND, +BS, no hepatosplenomegaly
   M/S: R BKA, L AKA, moves upper extremities
   NEURO: rarely makes eye contact, CN [**Name2 (NI) 5704**] grossly intact, sensation to
   touch intact, moves all 4 ext
   Labs / Radiology
   139 K/uL
   9.8 g/dL
   118 mg/dL
   4.4 mg/dL
   33 mEq/L
   4.2 mEq/L
   57 mg/dL
   98 mEq/L
   139 mEq/L
   29.9 %
   11.2 K/uL
        [image002.jpg]
                             [**2197-11-7**]  08:34 AM
                             [**2197-11-8**]  03:37 AM
                             [**2197-11-8**]  05:23 PM
                             [**2197-11-9**]  02:49 AM
   WBC
   9.3
   9.8
   11.2
   Hct
   32.8
   28.9
   29.9
   Plt
   137
   130
   139
   Cr
   3.0
   3.8
   4.2
   4.4
   Glucose
   128
   154
   247
   118
   Other labs: PT / PTT / INR:38.1/53.9/4.1, ALT / AST:44/55, Alk Phos / T
   Bili:235/0.9, Differential-Neuts:89.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:2.0 %, Eos:1.0 %, Albumin:3.0 g/dL, LDH:280 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   A/P: 72yo vasculopathic F with ESRD on HD R BKAs and L AKA, DM2 (HbA1c
   5.2), HTN, CHF (EF 50%), hx of MRSA line infection presents from HD
   with fever.
   .
   #. GPC Bacteremia/Fever/Drained Abscess: Pt admitted fever to 103 in
   setting of HD, h/o line infections, abscess over Left SCL line, bld cx
   growing GPCs-coag positive, relative leukocytosis and left shift c/w
   left SCL HD line infection (suggests MRSA infection); removed Left SCl
   HD line yesterday per IR and successful I&D of site per surgery. I&D
   site continues to be fluctuant/indurated.  Pt had Tmax of 39C ON with
   slight tachycardia 100-120
   - Continue vanco QHD , Gent QHD. Will f/u gent level. Continue empiric
   treatment.
   -Will discuss with surgery about re-evaluation of drained abscess and
   potential for further surgical treatment.
   -Continue montoring for s/s infection post-I&D of abscess
   .
   #. Hypoxia: Vital signs (O2 sats) ON stable while on NC 2L. Considering
   hypoxia in triage, desat yesterday, and [**11-7**] CXR with increased
   edema/infiltrate most likely c/w flash pulmonary edema secondary to
   tachycardia in setting of infection yet considering PNA. Failed attempt
   to wean this am.
   -Continue O2 2L NC with attempt to wean this afternoon.
   - On broad spectrum abx for bacteremia/fever which will cover any
   possible pna
   -CXR in am
   #. ESRD: electrolytes good compared to BL (eg: BL creat: [**4-11**]) completed
   a full course of HD yesterday.
   - Renal consult, will be following. F/U recs with renal concerning HD.
   - Ct nephrocaps
   .
   #. h/o Pericardial effusion:  BP stable.  No evidence of tamponade.
   .
   #. Seizure d/o s/p CVA:
   - Ct keppra, simvastatin, asa
   - Continue coumadin prn, holding given abx and supratherapeutic inr  .
   .
   #. Mental status: Per discussion with HCP, pt has had subacute decline
   over the last year.  Usually oriented to self.
   .
   #  Elevated LFTs: Trending down; Abd exam continues to be benign.Maybe
   secondary to heart failure leading to hepatic congestion.
   - will continue to monitor
   - consider abd u/s if fevers/leukocytosis persists.
   .
   #. DM: RISS
   .
   #. Anemia: has baseline anemia on Procrit at HD likely [**3-11**] CKD. Recent
   Baseline (29-30).
   -Ct Folic acid
   - procrit at HD
   .
   #. Chronic orhtostatic hypotension: Ct Midodrine 10mg TID prn
   .
   #. Glaucoma: Ct Timolol gtts 1gtt Ou Daily, Lumigan 1gtt OU QHS
   ..
   #. Healed sacral decubitus ulcer: Chronic, noted at admission.
   .
   # FEN: Will advance to Regular. replete lytes prn
   # PPx: Supratherapeutic INR, home bowel regimen, zantac
   # Access: PIV, HD line-right femoral line
   # Code: DNI/DNR
   # Communication: With patient and daughter=HCP
   Dispo: Monitor on CCU, social work c/s
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-11-6**] 09:30 PM
   Multi Lumen - [**2197-11-7**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2197-11-09 09:50:00 Physician Attending Progress Note
Chief Complaint: MRSA and yeast HD line infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Yeast in blood
   Surgery felt persistent fluctance was old scarring in tract and no need
   for further I and D
   ID consulted
   Plan for temp HD line this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2197-11-9**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2197-11-9**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.1
C (98.7
   HR: 113 (69 - 125) bpm
   BP: 141/62(84) {87/30(46) - 149/62(84)} mmHg
   RR: 21 (5 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 45.3 kg (admission): 44 kg
                  Total In:
                                                                  1,040 mL
                                                                    460 mL
   PO:
                                                                  1,040 mL
                                                                    460 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,040 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   Labs / Radiology
   9.8 g/dL
   139 K/uL
   118 mg/dL
   4.4 mg/dL
   33 mEq/L
   4.2 mEq/L
   57 mg/dL
   98 mEq/L
   139 mEq/L
   29.9 %
   11.2 K/uL
        [image002.jpg]
                             [**2197-11-7**]  08:34 AM
                             [**2197-11-8**]  03:37 AM
                             [**2197-11-8**]  05:23 PM
                             [**2197-11-9**]  02:49 AM
   WBC
   9.3
   9.8
   11.2
   Hct
   32.8
   28.9
   29.9
   Plt
   137
   130
   139
   Cr
   3.0
   3.8
   4.2
   4.4
   Glucose
   128
   154
   247
   118
   Other labs: PT / PTT / INR:38.1/53.9/4.1, ALT / AST:44/55, Alk Phos / T
   Bili:235/0.9, Differential-Neuts:89.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:2.0 %, Eos:1.0 %, Albumin:3.0 g/dL, LDH:280 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   72 yr old woman with high grade MRSA and infected HD catheter
   1.       High grade MRSA bacteremia: from infected line and abscess
   removed, would have [**Doctor First Name **] come back and readdress wound
 still
   fluctuant does it need more I and D. Continue Vanco by levels and then
   with HD when it resumes.
   2. ESRD: Renal following, has CVl not HD [**Doctor Last Name **] in groin, they need to
   clarify when they will plan for HD no acute indications at present.
   2.       Social: dtr will take back over as proxy from [**Name2 (NI) **]- paperwork
   signed. Pt is confirmed DNR DNI
   Remaining issues as per Housestaff notes
 discussed on rounds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-11-6**] 09:30 PM
   Multi Lumen - [**2197-11-7**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent:

2197-11-09 09:50:00 Physician Attending Progress Note
Chief Complaint: MRSA and yeast HD line infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Yeast in blood
   Surgery felt persistent fluctance was old scarring in tract and no need
   for further I and D
   ID consulted
   Plan for temp HD line this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2197-11-9**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2197-11-9**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.1
C (98.7
   HR: 113 (69 - 125) bpm
   BP: 141/62(84) {87/30(46) - 149/62(84)} mmHg
   RR: 21 (5 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 45.3 kg (admission): 44 kg
                  Total In:
                                                                  1,040 mL
                                                                    460 mL
   PO:
                                                                  1,040 mL
                                                                    460 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,040 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   Gen: frail elderly woman in mod pain
   CV: RR 2/6 sem
   Chest: fair air movement, no rales
 left chest wound decreased
   fluctuance
   Abd: soft NT + BS
   Ext: left AKA right BKA
   Neuro: conversant, complains of pain
   Labs / Radiology
   9.8 g/dL
   139 K/uL
   118 mg/dL
   4.4 mg/dL
   33 mEq/L
   4.2 mEq/L
   57 mg/dL
   98 mEq/L
   139 mEq/L
   29.9 %
   11.2 K/uL
        [image002.jpg]
                             [**2197-11-7**]  08:34 AM
                             [**2197-11-8**]  03:37 AM
                             [**2197-11-8**]  05:23 PM
                             [**2197-11-9**]  02:49 AM
   WBC
   9.3
   9.8
   11.2
   Hct
   32.8
   28.9
   29.9
   Plt
   137
   130
   139
   Cr
   3.0
   3.8
   4.2
   4.4
   Glucose
   128
   154
   247
   118
   Other labs: PT / PTT / INR:38.1/53.9/4.1, ALT / AST:44/55, Alk Phos / T
   Bili:235/0.9, Differential-Neuts:89.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:2.0 %, Eos:1.0 %, Albumin:3.0 g/dL, LDH:280 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   72 yr old woman with high grade MRSA and infected HD catheter
   1.       High grade MRSA bacteremia: from infected line and abscess
   removed, would have [**Doctor First Name **] come back and readdress wound
 still
   fluctuant does it need more I and D. Continue Vanco by levels and then
   with HD when it resumes.
   2. ESRD: Renal following, has triple lumen which will get changed over
   to temp HD catth by IR CVl not HD [**Doctor Last Name **] in groin, they need to clarify
   when they will plan for HD no acute indications at present.
   3.       Social: dtr will take back over as proxy from [**Name2 (NI) **]- paperwork
   signed. Pt is confirmed DNR DNI
   Remaining issues as per Housestaff notes
 discussed on rounds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-11-6**] 09:30 PM
   Multi Lumen - [**2197-11-7**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent:

2197-11-09 09:50:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: MRSA and yeast HD line infection
   24 Hour Events:
   Yeast in blood
   Surgery felt persistent fluctance was old scarring in tract and no need
   for further I and D
   ID consulted
   Plan for temp HD line this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2197-11-9**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2197-11-9**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.1
C (98.7
   HR: 113 (69 - 125) bpm
   BP: 141/62(84) {87/30(46) - 149/62(84)} mmHg
   RR: 21 (5 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 45.3 kg (admission): 44 kg
                  Total In:
                                                                  1,040 mL
                                                                    460 mL
   PO:
                                                                  1,040 mL
                                                                    460 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,040 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   Gen: frail elderly woman in mod pain, moaning
   CV: RR 2/6 sem
   Chest: fair air movement, no rales
 left chest wound decreased
   fluctuance since yesterday, no expressable pus
   Abd: soft NT + BS
   Ext: left AKA right BKA
   Neuro: moaningcomplains of pain
   Labs / Radiology
   9.8 g/dL
   139 K/uL
   118 mg/dL
   4.4 mg/dL
   33 mEq/L
   4.2 mEq/L
   57 mg/dL
   98 mEq/L
   139 mEq/L
   29.9 %
   11.2 K/uL
        [image002.jpg]
                             [**2197-11-7**]  08:34 AM
                             [**2197-11-8**]  03:37 AM
                             [**2197-11-8**]  05:23 PM
                             [**2197-11-9**]  02:49 AM
   WBC
   9.3
   9.8
   11.2
   Hct
   32.8
   28.9
   29.9
   Plt
   137
   130
   139
   Cr
   3.0
   3.8
   4.2
   4.4
   Glucose
   128
   154
   247
   118
   Other labs: PT / PTT / INR:38.1/53.9/4.1, ALT / AST:44/55, Alk Phos / T
   Bili:235/0.9, Differential-Neuts:89.0 %, Band:2.0 %, Lymph:6.0 %,
   Mono:2.0 %, Eos:1.0 %, Albumin:3.0 g/dL, LDH:280 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   72 yr old woman with high grade MRSA and infected HD catheter
   1.       High grade MRSA bacteremia: from infected line and abscess
   removed and s/p I and D.  Continue Vanco by levels and then with HD
   when it resumes. Serial blood cultures.
   2. Yeast: [**2-18**] cultures, cover with fluconazole while speciates.
   Appreciate ID input
   3. ESRD: Renal following, for temp HD line today by IR after FFP then
   HD this afternoon/tomorrow
 FFP may push her over to need it tonight
   from a volume standpoint.
   Remaining issues as per Housestaff notes
 discussed on rounds
   ICU Care
   Nutrition: renal diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-11-6**] 09:30 PM
   Multi Lumen - [**2197-11-7**] 04:00 PM
   Prophylaxis:
   DVT: anticoag
   Stress ulcer: ppi
   Communication:  pt and dtr
   [**Name (NI) 66**] status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: